US06632919B1
6-Chloro-2-(pivaloylamino)pyridine
To a precooled (−10° C.) suspension of 6-amino-2-(pivaloylamino)pyridine (28.00 g, 0.145 mol) in conc. aqueous HCl (150 mL) was added potassium nitrite (14.81 g, 0.174 mol) dissolved in water (8 mL) over a 1.5 h period. The resulting reaction mixture was stirred for 5 h at −10° C. under nirogen, before ajustment of the pH to 9 by addition of conc. aqueous NaOH. The aqueous solution was extracted with ethyl acetate (3×100 mL) and the organic fractions washed with 2M NaOH (3×40 mL). The organic phase was dried (MgSO4), evaporated in vacuo and recrystallised from n-hexane/ethyl acetae to give the desired product (17,70 g (58%) as a white powder (m.p. 86-87° C.). 1H NMR (DMSO-d6): δ 10.08 (s br, 1H), 8.04 (d, 8.1 Hz, 1H), 7.81 (t, 8.1 Hz, 1H), 7.17 (d, 8.1 Hz, 1H), 1.22 (s, 9H). 13C NMR (DMSO-d6): δ 177.4, 152.5, 147.8, 141.4, 119.0, 112.8, 39.4, 26.8. FAB+ MS (m/z): 213.06 M+H+, calc. for C10H13ClN2O+H+ 213.0795.

reactant | 6-amino-2-(pivaloylamino)pyridine | 0.145 mol, 28.00 g | NC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H15N3O
reactant | potassium nitrite | 0.174 mol, 14.81 g | N(=O)[O-].[K+]
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 150 mL | Cl | ClH
solvent | water | 8 mL | O | H2O
product | 6-Chloro-2-(pivaloylamino)pyridine | ClC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H13ClN2O
